US07713994B2
′6-(4-methylpiperazin-1-yl)pyridin-3-amine
An amount of 1 g (4.48 mmol) of 1-Methyl-4-(5-nitro-pyridin-2-yl)-piperazine is dissolved in methanol (50 mL), followed by a catalytic amount of 10% Pd/C. The mixture is hydrogenated at 35-40 psi for 3 hours, filtrated through celite followed by evaporation to give 900 mg (100% yield) of purple solid; mp 97-98° C. MS (ESI) m/z 193.1 (M+1)+.

reactant | 1-Methyl-4-(5-nitro-pyridin-2-yl)-piperazine | 4.48 mmol, 1 g | CN1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C10H14N4O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 6-(4-methylpiperazin-1-yl)pyridin-3-amine | 900 mg, 100% yield | CN1CCN(CC1)C1=CC=C(C=N1)N | C10H16N4
